US04362732
12.0 g (73.1 mmol) of 3-azaisatoic acid anhydride and 6.6 g (73.2 mmol) of sarcosine are stirred at 100° for 2.5 hours in 180 ml of dimethyl sulphoxide. The solvent is removed in a high vacuum and the oily residue is heated to 130° for about 4 hours. After cooling, the crystalline product is suspended in 150 ml of methanol. It is filtered off under suction, washed with methanol and dried. There is obtained 3,4-dihydro-4-methyl-2H-pyrido[2,3-e][1,4]diazepine-2,5(1H)-dione of melting point 245°-247°.

reactant | 3-azaisatoic acid anhydride | 73.1 mmol, 12.0 g | C1=2C(=O)OC(NC1=NC=CC2)=O | C7H4N2O3
reactant | sarcosine | 73.2 mmol, 6.6 g | N(C)CC(=O)O | C3H7NO2
solvent | dimethyl sulphoxide | 180 ml | CS(=O)C | C2H6OS
product | 3,4-dihydro-4-methyl-2H-pyrido[2,3-e][1,4]diazepine-2,5(1H)-dione | CN1CC(NC2=C(C1=O)C=CC=N2)=O | C9H9N3O2
